US08791119B2
To a solution of 11.5 g (36.8 mmol) of 1-tert-butyl 3-methyl 4-cyclopropanecarbonylpiperazine-1,3-dicarboxylate in 127.5 ml of methanol are added 1.77 g of sodium hydroxide dissolved in 22.5 ml of water. The mixture is stirred for 24 hours and the reaction medium is then concentrated under reduced pressure and the residue co-evaporated with toluene, to give 12.6 g of sodium 1-tert-butyl 4-cyclopropane-carbonylpiperazine-1,3-dicarboxylate in the form of a white powder after drying, and is used as obtained in the rest of the synthesis.

reactant | 1-tert-butyl 3-methyl 4-cyclopropanecarbonylpiperazine-1,3-dicarboxylate | 36.8 mmol, 11.5 g | C1(CC1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C15H24N2O5
reactant | sodium hydroxide | 1.77 g | [OH-].[Na+]
solvent | methanol | 127.5 ml | CO | CH4O
solvent | water | 22.5 ml | O | H2O
product | sodium 1-tert-butyl 4-cyclopropane-carbonylpiperazine-1,3-dicarboxylate | 12.6 g | C1(CC1)C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)[O-].[Na+] | InChI=1S/C14H22N2O5.Na/c1-14(2,3)21-13(20)15-6-7-16(10(8-15)12(18)19)11(17)9-4-5-9;/h9-10H,4-8H2,1-3H3,(H,18,19);/q;+1/p-1
